US07342022B2
Methyl 2-hydroxy-3-[7-(2-methoxyethoxy)quinazolin-4-yl]-1H-indole-5-carboxylate
Sodium hydride (58 mg, 1.45 mmol, 60% in oil) was washed with petroleum ether (3×5 mL) and dried in vacuo. The solid was suspended in tetrahydrofuran (3 mL) and methyl 2-oxo-5-indolinecarboxylate (140 mg, 0.73 mmol) in tetrahydrofuran (2 mL) and N-methylpyrrolidinone (2 mL) was added. The reaction mixture was stirred for 30 min at room temperature. A solution of 4-chloro-7-(2-methoxyethoxy)quinazoline (183 mg, 0.77 mmol, described in WO 97/42187) in tetrahydrofuran (2 mL) and N-methylpyrrolidinone (1 mL) was added and the reaction mixture was stirred for 1.5 h at room temperature. The solvent was removed in vacuo and 1 M hydrochloric acid was added. The precipitate formed was filtered off and dried at 40° C. in vacuo over night to give 150 mg (99% yield) of the title compound as an orange solid: MS (AP+) m/z 394.2 (M++1).

reactant | Sodium hydride | 1.45 mmol, 58 mg | [H-].[Na+]
reactant | methyl 2-oxo-5-indolinecarboxylate | 0.73 mmol, 140 mg | O=C1NC2=CC=C(C=C2C1)C(=O)OC | C10H9NO3
reactant | 4-chloro-7-(2-methoxyethoxy)quinazoline | 0.77 mmol, 183 mg | ClC1=NC=NC2=CC(=CC=C12)OCCOC | C11H11ClN2O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | N-methylpyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | Methyl 2-hydroxy-3-[7-(2-methoxyethoxy)quinazolin-4-yl]-1H-indole-5-carboxylate | 150 mg, 99% yield | OC=1NC2=CC=C(C=C2C1C1=NC=NC2=CC(=CC=C12)OCCOC)C(=O)OC | C21H19N3O5
